US06835732B2
Rac-[7-(1-Hydroxy-ethyl)-4-methoxy-benzothiazol-2-yl]-carbamic acid methyl ester
0.05 g of (7-acetyl-4-methoxy-benzothiazol-2-yl)-carbamic acid methyl ester (0.00018 Mol) were dissolved in ethanol (30 ml) and 0.028 g of NaBH4 (0.00072 Mol) were added. After stirring at 40° C. for 24 hrs. the reaction mixture was diluted with water, extracted with CH2Cl2, the organic phase washed with brine and dried over MgSO4. After chromatography on silicagel with CH2Cl2/MeOH 97:3 the title compound was obtained as a white solid (38%); F.p.: 179° C. (dec.).

reactant | (7-acetyl-4-methoxy-benzothiazol-2-yl)-carbamic acid methyl ester | 0.00018 Mol, 0.05 g | COC(NC=1SC2=C(N1)C(=CC=C2C(C)=O)OC)=O | C12H12N2O4S
reactant | NaBH4 | 0.00072 Mol, 0.028 g | [BH4-].[Na+]
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | Rac-[7-(1-Hydroxy-ethyl)-4-methoxy-benzothiazol-2-yl]-carbamic acid methyl ester | COC(NC=1SC2=C(N1)C(=CC=C2C(C)O)OC)=O | C12H14N2O4S
